US04115568
(i) Ethyl 2-(4-fluoro-2-nitroanilino)-thiophene-3-carboxylate
2,5-Difluoro-nitrobenzene and ethyl 2-amino-thiophene-3-carboxylate, m.p. 125° C. (EtOH).

reactant | 2,5-Difluoro-nitrobenzene | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | ethyl 2-amino-thiophene-3-carboxylate | NC=1SC=CC1C(=O)OCC | C7H9NO2S
solvent | EtOH | CCO | C2H6O
product | Ethyl 2-(4-fluoro-2-nitroanilino)-thiophene-3-carboxylate | FC1=CC(=C(NC=2SC=CC2C(=O)OCC)C=C1)[N+](=O)[O-] | C13H11FN2O4S
